US07691882B2
2-(3-Fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine
To a dimethyl sulfoxide (20.0 mL) solution of 2-(3-fluoro-4-((E)-2-nitro-vinyl)-phenoxymethyl)pyridine (1.20 g) described in Manufacturing Example 95-1-2 and acetic acid (1.00 mL) was added sodium borohydride (249 mg, 6.57 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 30 minutes at room temperature. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, followed by crystallization with an ethyl acetate-heptane system and filtration to obtain the title compound (614 mg, 50.7%).

reactant | dimethyl sulfoxide | 20.0 mL | CS(=O)C | C2H6OS
reactant | 2-(3-fluoro-4-((E)-2-nitro-vinyl)-phenoxymethyl)pyridine | 1.20 g | FC=1C=C(OCC2=NC=CC=C2)C=CC1\C=C\[N+](=O)[O-] | C14H11FN2O3
reactant | acetic acid | 1.00 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 6.57 mmol, 249 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 2-(3-Fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine | 614 mg, 50.7% | FC=1C=C(OCC2=NC=CC=C2)C=CC1CC[N+](=O)[O-] | C14H13FN2O3
